US06432944B1
To a solution of ortho-formylphenylacetic acid (10 g, 61 mmol) (Bleasdale, et al., J. Chem. Soc. Perkin Trans., 1991, 1683) in 60 mL of EtOH was added N-methylhydrazine (4.2 g, 91 mmol) and refluxed for 1 h. The reaction mixture cooled, solvent removed and transferred the crude reaction mixture to a vacuum sublimation apparatus. The imine was heated at 140° C. under high vacuum for 1 h and collected the cyclized product by extracting with hot 20% ethyl acetate in hexane (Nagarajan, et al., J. Med. Chem., 1972, 15 (10), 1091). The product was crystallized from 20% ethyl acetate in hexane. 4,5-dihydro-3-methyl-3H-2,3-benzodiazepin-4-one was obtained in 50% yield.

reactant | ortho-formylphenylacetic acid | 61 mmol, 10 g | C(=O)C1=C(C=CC=C1)CC(=O)O | C9H8O3
reactant | N-methylhydrazine | 91 mmol, 4.2 g | CNN | CH6N2
solvent | EtOH | 60 mL | CCO | C2H6O
product | 4,5-dihydro-3-methyl-3H-2,3-benzodiazepin-4-one | 50% yield | CN1N=CC2=C(CC1=O)C=CC=C2 | C10H10N2O
